US05488055
A mixture of 1-ethyl-6-methoxy-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine (5.4 g, 0.016 mol), boron tribromide (48 ml, 0.048 mol) and 1,2-dichloroethane (250 ml) was stirred at room temperature overnight. The reaction mixture was stirred with 1 volume of water, made basic with NaOH and the layers were separated. The basic layer was acidified with acetic acid and the yellow precipitate which formed was collected by filtration, washed with water and dried. The product was recrystallized from hot acetonitrile/methanol to afford 1-ethyl-6-hydroxy-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, as a yellow powder, m.p. 223°-224° C.

reactant | 1-ethyl-6-methoxy-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 0.016 mol, 5.4 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)OC | C20H26N4O
reactant | boron tribromide | 0.048 mol, 48 ml | B(Br)(Br)Br | BBr3
reactant | 1,2-dichloroethane | 250 ml | ClCCCl | C2H4Cl2
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 1-ethyl-6-hydroxy-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)O | C19H24N4O
